US09238639B2
Ethyl 2-(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)propanoate
To a mixture of ethyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate (710 mg) and iodomethane (0.373 ml) and THF (10 mL) was added sodium hydride (60% in oil, 160 mg) at 0° C. The mixture was stirred 0° C. to room temperature under argon atmosphere overnight. To the mixture was added 1N HCl at room temperature, and the mixture was adjusted to pH 6-7 with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed successively with brine and water, dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (230 mg).

reactant | ethyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 710 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC=2C(=NC(=CC2)C)C)=O | C20H21NO3S
reactant | iodomethane | 0.373 ml | IC | CH3I
reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)propanoate | 230 mg | CC1=NC(=CC=C1COC1=CC2=C(C(=CS2)C(C(=O)OCC)C)C=C1)C | C21H23NO3S
